US08492378B2
methyl 1-[4-(methylsulfinyl)phenyl]-1H-benzimidazole-6-carboxylate
To a solution of methyl 1-[4-(methylthio)phenyl]-1H-benzimidazole-6-carboxylate (4.44 g, 14.88 mmol) in dichloromethane (50 mL) was added m-chloroperbenzoic acid (3.07 g, 12.40 mmol) at 0° C., and the resulting mixture was stirred at room temperature for 30 min. Saturated aqueous sodium thiosulfate solution was added to the reaction mixture, and the mixture was stirred at room temperature for 15 min. The organic layer was separated, washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by basic silica gel column chromatography (hexane/ethyl acetate=2/1-0/1) to give the title compound (3.89 g, yield 83%) as colorless crystals.

reactant | methyl 1-[4-(methylthio)phenyl]-1H-benzimidazole-6-carboxylate | 14.88 mmol, 4.44 g | CSC1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C(=O)OC | C16H14N2O2S
reactant | m-chloroperbenzoic acid | 12.40 mmol, 3.07 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | methyl 1-[4-(methylsulfinyl)phenyl]-1H-benzimidazole-6-carboxylate | 3.89 g, yield 83% | CS(=O)C1=CC=C(C=C1)N1C=NC2=C1C=C(C=C2)C(=O)OC | C16H14N2O3S
